US09024019B2
Step C: N-[6-(benzyloxymethyl)-3-oxo-2,5-dihydro-1,2,4-triazin-4-yl]acetamide
To a solution of 3-(3-benzyloxy-2-oxo-propyl)-5-methyl-1,3,4-oxadiazol-2-one (36.4 g, 139 mmol) in isopropanol (140 mL) was added hydrazine hydrate (62 wt % in water, 11.8 mL, 152 mmol) in at room temperature in one portion. The mixture was heated to 75° C. for 24 h. The volatiles were removed under reduced pressure, and the remaining brown oil was purified by flash chromatography (7% MeOH/dichloromethane) to furnish the desired product as a yellowish solid. 1H NMR (400 MHz, CDCl3) 2.04 (s, 3H), 4.12 (s, 2H), 4.23 (s, 2H), 4.54 (s, 2H), 7.24-7.44 (m, 5H), 8.25 (s, 1H), 8.69 (s, 1H).

reactant | 3-(3-benzyloxy-2-oxo-propyl)-5-methyl-1,3,4-oxadiazol-2-one | 139 mmol, 36.4 g | C(C1=CC=CC=C1)OCC(CN1C(OC(=N1)C)=O)=O | C13H14N2O4
reactant | hydrazine hydrate | 152 mmol, 11.8 mL | O.NN
solvent | isopropanol | 140 mL | C(C)(C)O | C3H8O
product | N-[6-(benzyloxymethyl)-3-oxo-2,5-dihydro-1,2,4-triazin-4-yl]acetamide | C(C1=CC=CC=C1)OCC=1CN(C(NN1)=O)NC(C)=O | C13H16N4O3
